US04213989
A solution of gaseous hydrogen chloride in ethyl acetate was added dropwise to a solution of 64 g of 1-benzyl-3-(3-trifluoromethyl-phenyl)-piperidine-3-ol in 100 ml of ethyl acetate until the pH was acidic and the mixture was vacuum filtered. The recovered product was washed with ethyl acetate and was dried under reduced pressure to obtain 62.5 g of 1-benzyl-3-(3-trifluoromethyl-phenyl)-piperidine-3-ol hydrochloride which sublimed towards 240° C. A suspension of 60 g of the said hydrochloride in 2.4 liters of ethanol was admixed with 12 g of activated carbon containing 10% by weight of palladium hydroxide and 4.2 liters of hydrogen was bubbled therethrough at 20° C. in 2 hours. The mixture was filtered and the filtrate was evaporated to dryness under reduced pressure. The residue was crystallized from 100 ml of methanol and the mixture was vacuum filtered at 5° C. The recovered product was washed with iced methanol and dried at 35° C. to obtain 43.6 g of 3-(3-trifluoromethyl-phenyl)-piperidine-3-ol hydrochloride melting at 210° C.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-benzyl-3-(3-trifluoromethyl-phenyl)-piperidine-3-ol | 64 g | C(C1=CC=CC=C1)N1CC(CCC1)(O)C1=CC(=CC=C1)C(F)(F)F | C19H20F3NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-3-(3-trifluoromethyl-phenyl)-piperidine-3-ol hydrochloride | 62.5 g | Cl.C(C1=CC=CC=C1)N1CC(CCC1)(O)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C19H20F3NO.ClH/c20-19(21,22)17-9-4-8-16(12-17)18(24)10-5-11-23(14-18)13-15-6-2-1-3-7-15;/h1-4,6-9,12,24H,5,10-11,13-14H2;1H
